US08703768B2
6-Cyclopropyl-N-[4-(3-dimethylamino-pyrrolidine-1-carbonyl)-pyridin-3-yl]-3-(pyrimidin-5-ylamino)-pyridine-2-carboximidic acid
According to the general method described above (step 3), reaction of 3-dimethylamino-pyrrolidine with 3-{[6-cyclopropyl-3-(pyrimidin-5-ylamino)-pyridine-2-carbonyl]-amino}-isonicotinic acid provided the title compound (13%) as sticky yellow solid

reactant | 3-dimethylamino-pyrrolidine | CN(C1CNCC1)C | C6H14N2
reactant | 3-{[6-cyclopropyl-3-(pyrimidin-5-ylamino)-pyridine-2-carbonyl]-amino}-isonicotinic acid | C1(CC1)C1=CC=C(C(=N1)C(=O)NC1=C(C(=O)O)C=CN=C1)NC=1C=NC=NC1 | C19H16N6O3
product | 6-Cyclopropyl-N-[4-(3-dimethylamino-pyrrolidine-1-carbonyl)-pyridin-3-yl]-3-(pyrimidin-5-ylamino)-pyridine-2-carboximidic acid | 13% | C1(CC1)C1=CC=C(C(=N1)C(O)=NC=1C=NC=CC1C(=O)N1CC(CC1)N(C)C)NC=1C=NC=NC1 | C25H28N8O2
